US08202856B2
Step 1: tert-butyl 4-cyanobenzylcarbamate
To a solution of 4-cyanobenzylamine hydrochloride (1.05 g; 6.25 mmol) in water (10 mL) was added sodium hydroxide (0.75 g; 18.75 mmol) and di-tert-butyldicarbonate (1.49 g; 6.87 mmol) and the mixture was stirred for 16 hours. The solid was collected by filtration and dried in a vacuum oven at 40° C. for 48 hours. The title compound was isolated as a white solid (1.35 g; 80%). 1H NMR: (CDCl3, 400 MHz) δ 7.62 (2H, d, J=8.1 Hz), 7.39 (2H, d, J=8.0 Hz), 4.97 (1H, s), 4.37 (2H, d, J=6.2 Hz), 1.46 (9H, s).

reactant | 4-cyanobenzylamine hydrochloride | 6.25 mmol, 1.05 g | Cl.C(#N)C1=CC=C(CN)C=C1
reactant | sodium hydroxide | 18.75 mmol, 0.75 g | [OH-].[Na+]
reactant | di-tert-butyldicarbonate | 6.87 mmol, 1.49 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 10 mL | O | H2O
product | tert-butyl 4-cyanobenzylcarbamate | C(#N)C1=CC=C(CNC(OC(C)(C)C)=O)C=C1 | C13H16N2O2
